US05547962
Ethyl 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylate
A suspension of 18.5 g of ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate, 10 ml of Raney nickel in 300 ml of acetic acid was hydrogenated at room temperature for 1.5 hours under atmospheric pressure. The catalyst was filtered off and resulting filtrate was evaporated. To this residue, 150 ml of 10% aqueous potassium carbonate was added and the mixture was extracted with methylene chloride. The combined organic extracts were dried and evaporated to give 14.8 g of the desired compound as slightly yellow crystals, which was recrystallized from acetonitrile to give slightly yellow needles, m.p. 182.5°-185.5° C.

reactant | ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate | 18.5 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)C)F)F)[N+](=O)[O-])=O)C(=O)OCC | C16H14F2N2O5
catalyst | Raney nickel | 10 ml | [Ni] | Ni
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | Ethyl 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylate | 14.8 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)C1CC1)C(=O)OCC)=O | C16H16F2N2O3
